US07238808B2
5-[6-(4-Chloro-phenyl)-8-methyl-imidazo[1,2-a]pyridin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared from 6-(4-chloro-phenyl)-3-ethynyl-8-methyl-imidazo[1,2-a]pyridine (example C.21) (267 mg, 1 mmol) and commercially available 5-bromothiophene-2-sulfonamide (230 mg, 1 mmol) according to general procedure II. Obtained as a light brown solid (158 mg, 44%). MS (ISP) 427.9 [(M+H)+], 429.9 [(M+2+H)+]; mp 265–266° C.

reactant | 6-(4-chloro-phenyl)-3-ethynyl-8-methyl-imidazo[1,2-a]pyridine | 1 mmol, 267 mg | ClC1=CC=C(C=C1)C=1C=C(C=2N(C1)C(=CN2)C#C)C | C16H11ClN2
reactant | 5-bromothiophene-2-sulfonamide | 1 mmol, 230 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-[6-(4-Chloro-phenyl)-8-methyl-imidazo[1,2-a]pyridin-3-ylethynyl]-thiophene-2-sulfonic acid amide | ClC1=CC=C(C=C1)C=1C=C(C=2N(C1)C(=CN2)C#CC2=CC=C(S2)S(=O)(=O)N)C | C20H14ClN3O2S2
